US05599813
tert-Butyl 4-methyl-3-oxopentanoate
In a mixture of 85 ml of dichloromethane and 40 ml of pyridine was dissolved 33.8 g of meldrum's acid. Under cooling with ice, 25.0 g of isobutyl chloride was added dropwise to the solution, followed by stirring under room temperature for 1 hour. The solvent was removed under reduced pressure and to the residue was added water. The mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was dissolved in 100 ml of tert-butanol, followed by reflux under heating for 4 hours. The solvent was removed under reduced pressure. The residue was subjected to distillation under reduced pressure to yield 32.5 g of the oily titled compound.

reactant | meldrum's acid | 33.8 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | isobutyl chloride | 25.0 g | C(C(C)C)Cl | C4H9Cl
reactant | dichloromethane | 85 ml | ClCCl | CH2Cl2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-methyl-3-oxopentanoate | 32.5 g | CC(C(CC(=O)OC(C)(C)C)=O)C | C10H18O3
